* source ZENER_BEST_PRACTICES
V_V6         N44214 0  
+SIN 12 2 0.5 0 0 0
R_R17         N44376 N44272  470 TC=0,0 
X_R18         N44376 N44448 0 POT PARAMS: SET=1 VALUE=100k
C_C2         0 N44376  0.1uF  TC=0,0 
X_U5         N44214 N44244 Sw_tOpen PARAMS: tOpen=5 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U6         N444300 N44448 Sw_tOpen PARAMS: tOpen=5 ttran=1u Rclosed=0.01
+  Ropen=1Meg
D_D1         N44272 N44244 1N4740A 
D_D2         0 N444300 D1N4733 
